US08440682B2
To a solution of 4-methoxypyridine (15.6 g, 143 mmol) in dry THF (1 L) cooled to −35° C. is added CICO2Ph (22.7 g, 144 mmol). After stirring the slurry for 1 hour, EtMgBr (150 mL, 150 mmol) is added slowly over 30 min. The mixture is warmed to 10° C. over 2 hours then quenched with H2O. The reaction mixture is extracted twice with Et2O (1 L), combined organic layer is dried over Na2SO4, and the solvent is removed under reduced pressure. To a solution of the resultant colorless oil in dry THF (500 mL) at −78° C. is added t-BuOK (64 g, 572 mmol). The reaction mixture is stirred overnight and warmed to room temperature. The reaction mixture is diluted with Et2O, quenched with ice, partitioned, and the organic layer is washed three times with 1.5 N aqueous NaOH and then with brine, dried over MgSO4 and concentrated in reduced pressure to afford 2-ethyl-4-oxo-3,4-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a pale yellow oil (27.8 g, 86% yield); ESI-MS m/z: 226 [M+1]+, Retention time 1.64 min (condition A).

reactant | 4-methoxypyridine | 143 mmol, 15.6 g | COC1=CC=NC=C1 | C6H7NO
reactant | EtMgBr | 150 mmol, 150 mL | CC[Mg+].[Br-]
reactant | t-BuOK | 572 mmol, 64 g | CC(C)(C)[O-].[K+]
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | THF | 500 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 2-ethyl-4-oxo-3,4-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 27.8 g, 86% yield | C(C)(C)(C)OC(=O)N1C(CC(C=C1)=O)CC | C12H19NO3
